US09290496B2
Step 2: Preparation of (trans)-benzyl 3-azido-4-fluoropyrrolidine-1-carboxylate
To a stirred mixture of (trans)-3-azido-4-fluoropyrrolidine (18 g) in CH2Cl2 (120 mL) was added DIPEA (35 g, 0.27 mol, 2.5 eq), then CBZ-Cl (22 g, 0.13 mol) was added dropwise at 0-5° C. After addition, the resulting mixture was stirred at rt overnight. The mixture was washed with sat. aq. NH4Cl (150 mL), sat. aq. NaHCO3 (3×40 mL) and brine (40 mL). The organic layer was concentrated and purified by column (petroleum ether/EtOAc=10:1˜5:1) to give the title compound (30 g, ˜100% yield in two steps, containing residual EtOAc and DCM) as a light yellow oil.

reactant | (trans)-3-azido-4-fluoropyrrolidine | 18 g | N(=[N+]=[N-])[C@@H]1CNC[C@H]1F | C4H7FN4
reactant | DIPEA | 0.27 mol, 35 g, 2.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | CBZ-Cl | 0.13 mol, 22 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | (trans)-benzyl 3-azido-4-fluoropyrrolidine-1-carboxylate | 30 g, ˜100% yield | N(=[N+]=[N-])[C@@H]1CN(C[C@H]1F)C(=O)OCC1=CC=CC=C1 | C12H13FN4O2
